US04209521
1-[1-(Indol-3-ylmethyl)piperid-4-yl]-3-(2-thenoyl)-urea
Following the procedure of Example 1, formaldehyde, 4-(2-thenoyl)ureidopiperidine and indole are reacted together to obtain the title compound which is isolated as the hydrochloride mp 231°-232° C.

reactant | formaldehyde | C=O | CH2O
reactant | 4-(2-thenoyl)ureidopiperidine | C1(=CC=CS1)C(=O)NC(NC1CCNCC1)=O | C11H15N3O2S
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-[1-(Indol-3-ylmethyl)piperid-4-yl]-3-(2-thenoyl)-urea | N1C=C(C2=CC=CC=C12)CN1CCC(CC1)NC(=O)NC(C1=CC=CS1)=O | C20H22N4O2S
